US04731471
Step G: Methyl {[2-(2-Acetoxyethyl)-6,7-dichloro-2,3-dihydro-1-oxo-2-(3-oxobutyl)-1H-inden-5-yl]oxy}acetate
Methyl {[2-(2-acetoxyethyl)-6,7-dichloro-2,3-dihydro-1-oxo-1H-inden-5-yl]oxy}acetate (3.2 gm, 0.00853 mole) was dissolved in tetrahydrofuran (30 ml), stirred and heated to 40° C. Then diazabicyclo[4.3.0]non-5-ene (50 microliters) was added followed by methyl vinyl ketone (1.2 gm, 0.0170 mole). The mixture was stirred and heated at 50°-52° C. for 100 minutes, then more diazabicyclo[4.3.0]non-5-ene (2 drops) and methyl vinyl ketone (0.6 ml) were added and stirring and heating continued for another 140 minutes. The mixture was cooled, diluted with ethyl acetate, poured into ice water (250 ml) containing acetic acid (1 ml). The layers were separated and the aqueous layer extracted first with methylene chloride then with ether. The combined organic extracts were washed with water and dried over MgSO4. Evaporation of the solvents in vacuo gave the product (3.6 gm.).

reactant | Methyl {[2-(2-acetoxyethyl)-6,7-dichloro-2,3-dihydro-1-oxo-1H-inden-5-yl]oxy}acetate | 0.00853 mole, 3.2 gm | C(C)(=O)OCCC1C(C2=C(C(=C(C=C2C1)OCC(=O)OC)Cl)Cl)=O | C16H16Cl2O6
reactant | diazabicyclo[4.3.0]non-5-ene | 50 microliters | N12NCCC=C2CCC1 | C7H12N2
reactant | methyl vinyl ketone | 0.0170 mole, 1.2 gm | C(=C)C(=O)C | C4H6O
reactant | methyl vinyl ketone | 0.6 ml | C(=C)C(=O)C | C4H6O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | diazabicyclo[4.3.0]non-5-ene | 2 drops | N12NCCC=C2CCC1 | C7H12N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl {[2-(2-Acetoxyethyl)-6,7-dichloro-2,3-dihydro-1-oxo-2-(3-oxobutyl)-1H-inden-5-yl]oxy}acetate | C(C)(=O)OCCC1(C(C2=C(C(=C(C=C2C1)OCC(=O)OC)Cl)Cl)=O)CCC(C)=O | C20H22Cl2O7
